* Tutorial 5/6 charge-mode piezo signal chain source
* q = S_p P, Vcharge = -q/Cf
Ipiezo in 0 AC 1
Rf out in 10k
Cf out in 27p
Eop out 0 in 0 1e6
Chpf out hpf 270n
Rhpf hpf 0 10k
Rlpf hpf lpf 10k
Clpf lpf 0 50n
.END