* Tutorial 6 R-2R ladder DAC source netlist
Vref vref 0 DC 1
Rmsb vref n1 2k
R2 n1 n2 1k
Rterm n2 0 2k
* educational source netlist; rendered annotation asset is in assets/circuits
.END